US04060541
36.6 g (0.1 mol) of 2,2-bis-(3,5-dichloro-4-hydroxyphenyl)-propane are suspended in 500 ml of water and 400 ml of methylene chloride. After cooling to about 0° to 3° C, 20 ml (0.4 mol) of cyanogen chloride are added. A solution of 10.6 g of Na2CO3 in 50 ml of water is added dropwise over the course of 90 minutes, with vigorous stirring, in such a way that the pH value of the reaction mixture is constantly kept in the range between 7.5 and 8.5. Thereafter, 1 N NaOH is added in such a way that a pH value of the reaction mixture of about 8.0 is maintained, and persists as the final value. Thereafter, the organic phase is separated off, washed with 100 ml of water and concentrated at room temperature. 39 g (99% of theory) of 2-(3,5-dichloro-4-hydroxyphenyl)-2-(3,5-dichloro-4-cyanatophenyl)-propane are obtained as the residue.

reactant | 2,2-bis-(3,5-dichloro-4-hydroxyphenyl)-propane | 0.1 mol, 36.6 g | ClC=1C=C(C=C(C1O)Cl)C(C)(C)C1=CC(=C(C(=C1)Cl)O)Cl | C15H12Cl4O2
reactant | cyanogen chloride | 0.4 mol, 20 ml | N#CCl | CClN
reactant | Na2CO3 | 10.6 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 2-(3,5-dichloro-4-hydroxyphenyl)-2-(3,5-dichloro-4-cyanatophenyl)-propane | 39 g, 99% | ClC=1C=C(C=C(C1O)Cl)C(C)(C)C1=CC(=C(C(=C1)Cl)OC#N)Cl | C16H11Cl4NO2
